US06407122B1
A solution of 5 g (+) threo 1-(p-nitro-phenyl)-2-(4-benzylpiperidin-1-yl)-3-dimethylaminopropan-1-ol and 0.5 g of Pd/C 10% in 50 ml of ethanol was hydrogenated at normal pressure at 50° C. After removal of the catalist, the solution was concentrated to small volume affording 3.1 g of (+) threo 1-(p-amino-phenyl)-2-(4-benzylpiperidin-1-yl) -3-dimethylaminopropan-1-ol, m.p. 121-125° C.

reactant | 1-(p-nitro-phenyl)-2-(4-benzylpiperidin-1-yl)-3-dimethylaminopropan-1-ol | [N+](=O)([O-])C1=CC=C(C=C1)C(C(CN(C)C)N1CCC(CC1)CC1=CC=CC=C1)O | C23H31N3O3
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | 1-(p-amino-phenyl)-2-(4-benzylpiperidin-1-yl) -3-dimethylaminopropan-1-ol | NC1=CC=C(C=C1)C(C(CN(C)C)N1CCC(CC1)CC1=CC=CC=C1)O | C23H33N3O
